US07253190B2
Following the procedure described in EXAMPLE 1 for the synthesis of 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine, 3-fluorophenylaniline (33.3 mg, 0.3 mmol) and 2-pyridinecarboxaldehyde (32.1 mg, 0.3 mmol) were employed to obtain 2-[2-(3-fluorophenyl)-2H-tetrazol-5-yl]pyridine as an orange solid.

reactant | 2-[2-(3-chlorophenyl)-2H-tetrazol-5-yl]pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8ClN5
reactant | 3-fluorophenylaniline | 0.3 mmol, 33.3 mg | FC=1C=C(C=CC1)NC1=CC=CC=C1 | C12H10FN
reactant | 2-pyridinecarboxaldehyde | 0.3 mmol, 32.1 mg | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(3-fluorophenyl)-2H-tetrazol-5-yl]pyridine | FC=1C=C(C=CC1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8FN5
